US07300951B2
A solution of LAH (2.74 g, 72.3 mmol) in Et2O (230 mL) was stirred under nitrogen at 0° C. 2-Ethyl-4,4,4-trifluorobutyric acid (12.3 g, 72.3 mmol) in Et2O (20 mL) was added dropwise, and the solution stirred for 15 min at 0° C. and then 2 h at 25° C. After this time period, the solution was quenched with the dropwise addition of H2O (2.74 mL), 15% NaOH (2.74 mL), and H2O (8.22 mL) with efficient stirring. Solid Na2SO4 was added to dry the solvent, and the resulting mixture was stirred for 1 h. The resulting slurry was filtered, and the filter cake washed with excess Et2O. After concentration, the crude product was purified by the Biotage Flash™ 40 chromatography instrument, eluent: 20:80 to 30:70 Et2O:PE to obtain 2-ethyl-4,4,4-trifluorobutanol as an oil (6.18 g, 55% yield for two steps).

reactant | LAH | 72.3 mmol, 2.74 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 2-Ethyl-4,4,4-trifluorobutyric acid | 72.3 mmol, 12.3 g | C(C)C(C(=O)O)CC(F)(F)F | C6H9F3O2
solvent | Et2O | 230 mL | CCOCC | C4H10O
solvent | Et2O | 20 mL | CCOCC | C4H10O
product | 2-ethyl-4,4,4-trifluorobutanol | 55% yield | C(C)C(CO)CC(F)(F)F | C6H11F3O
